US08404836B2
0.53 g (132 mmol) of 60% sodium hydride is added in portions to a solution at 0° C. of 20 g (120 mmol) of (4-hydroxy-phenyl)-methyl acetate diluted in 100 ml of tetrahydrofuran and 100 ml of dimethylformamide. The reaction mixture is stirred at room temperature, and then 15 ml (132 mmol) of 1-chloromethoxy-2-methoxy-ethane is added dropwise. After stirring at room temperature for 2 hours, then adding water, the reaction mixture is extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and then dried over magnesium sulfate. After evaporation of the solvents, 25 g (86%) of [4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate is obtained in the form of a colorless oil.

reactant | sodium hydride | 132 mmol, 0.53 g | [H-].[Na+]
reactant | (4-hydroxy-phenyl)-methyl acetate | 120 mmol, 20 g | C(C)(=O)OCC1=CC=C(C=C1)O | C9H10O3
reactant | 1-chloromethoxy-2-methoxy-ethane | 132 mmol, 15 ml | ClCOCCOC | C4H9ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | [4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate | 25 g, 86% | C(C)(=O)OCC1=CC=C(C=C1)OCOCCOC | C13H18O5
